US05580893
N-(2-Nitroxyethyl)-3-isoxazolyloxyacetamide (Exemplified compound No. 32)
Following a similar treatment to that in Example 2 and using 286 mg of 3-isoxazolyloxyacetic acid and 338 mg of nitroxyethylamine nitrate, 250 mg of the title compound was obtained as colorless needles (solvent for recrystallization; diisopropyl ether).

reactant | 3-isoxazolyloxyacetic acid | 286 mg | O1N=C(C=C1)OCC(=O)O | C5H5NO4
reactant | nitroxyethylamine nitrate | 338 mg | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | N-(2-Nitroxyethyl)-3-isoxazolyloxyacetamide | 250 mg | O([N+](=O)[O-])CCNC(COC1=NOC=C1)=O | C7H9N3O6
